US07411072B2
3-Dibenzo[a,d]cyclohepten-5-ylidenemethyl-phenylamine
Dissolve 5-(3-nitro-benzylidene)-5H-dibenzo[a,d]cycloheptene (120 mg, 0.4 mmol) in absolute ethanol. Add (10 ml tin chloride (416 mg, 2.0 mmol) and heat to reflux. After 18 h, cool and partition between 1N NaOH/EtOAc. Dry the organic layers (MgSO4) and concentrate to give 92.3 mg of a white solid. MS [EI+] 296 (M+H).

reactant | 5-(3-nitro-benzylidene)-5H-dibenzo[a,d]cycloheptene | 0.4 mmol, 120 mg | [N+](=O)([O-])C=1C=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=CC1 | C22H15NO2
reactant | tin chloride | 2.0 mmol, 10 ml, 416 mg | [Sn](Cl)(Cl)(Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | 3-Dibenzo[a,d]cyclohepten-5-ylidenemethyl-phenylamine | 92.3 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CC=3C=C(C=CC3)N | C22H17N
